US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methyl-pyridin-4-yl)amide
A solution of 4-amino-3-methylpyridine (76 mg) in dry N,N-dimethylformamide (20 ml) was stirred at 0° C. under an atmosphere of dry nitrogen. Sodium bis(trimethylsilyl)amide (1.0M solution in tetrahydrofuran, 0.77 ml) was added and stirring continued at 0° C. for 10 minutes. 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (0.20 g) was added and stirring continued at room temperature for 90 minutes. The solvent was then removed in vacuo, the residue taken up in water (100 ml) and extracted with ethyl acetate (3×75 ml). The combined organic extracts were washed with water (100 ml) then brine (50 ml), dried over magnesium sulfate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with ethyl acetate followed by trituration with diethyl ether gave the title compound (66 mg) as a white solid.

reactant | 4-amino-3-methylpyridine | 76 mg | NC1=C(C=NC=C1)C | C6H8N2
reactant | Sodium bis(trimethylsilyl)amide | 1.0M, 0.77 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 0.20 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methyl-pyridin-4-yl)amide | 66 mg | CC=1C=NC=CC1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H17N3O3
